US06159996
5-Trifluoromethoxyindan-1-one: 9.37 g of methyl 3-(3-trifluoromethoxyphenyl)propionate are dissolved in 50 ml of ethanol with 25 ml of water. 3.74 g of potassium hydroxide are added and the mixture is refluxed for 45 minutes. The cooled solution is concentrated, the residue is treated with 25 ml of water, and conc. hydrochloric acid is added with stirring until the pH is 1. The aqueous reaction mixture is extracted twice by shaking with 75 ml of dichloromethane in each case. The organic phase is washed with water, dried over magnesium sulfate, concentrated and dried in vacuo. 3-(3-trifluoromethoxy-phenyl) propionic acid is obtained as a colorless oil. 6.24 g of the acid are dissolved in 40 ml of toluene, and the solution is treated with 2.1 ml of thionyl chloride and refluxed for 1 hour. The cooled reaction mixture is concentrated, and the residue is taken up in 5 ml of toluene and concentrated again. 3-(3-Trifluoromethoxyphenyl)propionyl chloride is obtained, which is dissolved in 30 ml of dichloromethane without further purification and added dropwise at 0-5° C. with stirring in the course of 15 minutes to a suspension of 5.49 g of anhydrous aluminum trichloride in 40 ml of dichloromethane. The reaction mixture is stirred at 0° C. for one hour and then added to 40 ml of ice water. The organic phase is separated off and the aqueous phase is again extracted by shaking with 40 ml of dichloromethane. The combined organic phases are washed with 40 ml of satd. sodium hydrogencarbonate solution and water, dried over magnesium sulfate, concentrated in vacuo and, for purification, purified by chromatography on silica gel using toluene/ethyl acetate 20/1. 5-Trifluoromethoxyindan-1-one is obtained as a pale yellow oil.

reactant | 5-Trifluoromethoxyindan-1-one | FC(OC=1C=C2CCC(C2=CC1)=O)(F)F | C10H7F3O2
reactant | methyl 3-(3-trifluoromethoxyphenyl)propionate | 9.37 g | FC(OC=1C=C(C=CC1)CCC(=O)OC)(F)F | C11H11F3O3
reactant | potassium hydroxide | 3.74 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 3-(3-trifluoromethoxy-phenyl) propionic acid | FC(OC=1C=C(C=CC1)CCC(=O)O)(F)F | C10H9F3O3
